** sch_path: /foss/designs/modulo5/lab02_cosim_test/xschem/counter4_tb.sch
**.subckt counter4_tb
Vclk clk_ana GND PULSE(0 1.8 0 1n 1n 49n 100n)
Vrst rst_ana GND PULSE(0 1.8 200n 1n 1n 10u 20u)
Abr_clk [ clk_ana ] [ clk_d ] adc1
.model adc1 adc_bridge in_low=0.7 in_high=1.1
Abr_rst [ rst_ana ] [ rst_d ] adc1
.model adc1 adc_bridge in_low=0.7 in_high=1.1
adut [ clk_d rst_d ] [ q0_d q1_d q2_d q3_d ] dut
.model dut d_cosim simulation=./counter4_behav.so
A1 [ q0_d ] [ v_q0 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A2 [ q1_d ] [ v_q1 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A3 [ q2_d ] [ v_q2 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
A4 [ q3_d ] [ v_q3 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.8
R1 v_q3 GND 100k m=1
R2 v_q2 GND 100k m=1
R3 v_q1 GND 100k m=1
R4 v_q0 GND 100k m=1
**** begin user architecture code


.control
tran 1n 2000n
plot v_q3+6 v_q2+4 v_q1+2 v_q0
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
