** sch_path: /foss/designs/modulo1/lab03/xschem/tb_pvt.sch
**.subckt tb_pvt
x1 vdd out_p out_n vin_p vin_n clk GND strongarm
VVDD vdd GND {vdd_param}
VCLK clk GND PULSE(0 {vdd_param} 25n 100p 100p 25n 50n)
VVIN_P vin_p GND 0.905
VVIN_N vin_n GND 0.895
C1 out_n GND 20f m=1
C2 out_p GND 20f m=1
**** begin user architecture code

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice sf


.param vdd_param=1.8
.options savecurrents

.control
  save all
  set appendwrite
  shell rm -f tb_pvt.raw
  set outfile = pvt_sf.txt
  echo T_C,VDD_V,t_decision_ns > $outfile

  foreach T_val -40 27 125
    foreach VDD_val 1.62 1.8 1.98
      set t_save   = $T_val
      set vdd_save = $VDD_val
      alterparam vdd_param = $vdd_save
      reset
      set temp = $t_save

      tran 10p 110n
      let thresh = $vdd_save / 2
      meas tran t_clk_rise  WHEN v(clk)=thresh    RISE=2
      meas tran t_out_fall  WHEN v(out_p)=thresh  FALL=2
      let t_decision = t_out_fall - t_clk_rise
      let t_dec_ns = t_decision * 1e9
      echo $t_save,$vdd_save,$&t_dec_ns >> $outfile
      echo T=$t_save VDD=$vdd_save t_decision=$&t_dec_ns ns
      write tb_pvt.raw
    end
  end
.endc

**** end user architecture code
**.ends

* expanding   symbol:  strongarm.sym # of pins=7
** sym_path: /foss/designs/modulo1/lab03/xschem/strongarm.sym
** sch_path: /foss/designs/modulo1/lab03/xschem/strongarm.sch
.subckt strongarm VDD out_p out_n vin_p vin_n clk GND
*.ipin vin_p
*.ipin vin_n
*.ipin clk
*.opin out_n
*.opin out_p
*.iopin VDD
*.iopin GND
XM1 sp vin_p tail GND sky130_fd_pr__nfet_01v8 L=0.25 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 sn vin_n tail GND sky130_fd_pr__nfet_01v8 L=0.25 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM3 out_p out_n sp GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM4 out_n out_p sn GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM5 tail clk GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0
+ sd=0 mult=1 m=1
XM6 out_p clk VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1 m=1
XM7 out_n clk VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1 m=1
XM8 out_n out_p VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM9 out_p out_n VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM10 sn clk VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1 m=1
XM11 sp clk VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad=0.87 as=0.87 pd=6.58 ps=6.58 nrd=0.0966666666666667
+ nrs=0.0966666666666667 sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
