** sch_path: /foss/pdks/ciel/sky130/versions/8afc8346a57fe1ab7934ba5a6056ea8b43078e71/sky130A/libs.tech/xschem/sky130_tests/test_ac.sch
**.subckt test_ac
XM1 G PLUS S GND sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 OUT MINUS S GND sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM4 net3 BIAS GND GND sky130_fd_pr__nfet_01v8_lvt L=4 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM3 OUT G VCC VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XM5 G G VCC VCC sky130_fd_pr__pfet_01v8_lvt L=4 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
Vtail S net3 0
.save i(vtail)
V1 BIAS GND 0.7
V2 VCC GND 1.8
V3 PLUS GND 0.91
V4 IN GND 0 ac 1 0 sin(0 1m 100meg 0 0 0)
C2 MINUS IN 1T m=1
L1 OUT MINUS 1T m=1
E1 net1 GND S GND 1
XM6 net2 OUT net1 GND sky130_fd_pr__nfet_01v8_lvt L=2 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
E2 net2 GND OUT GND 1
**** begin user architecture code
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt



.include test_ac.save
.option reltol=1e-5
+  abstol=1e-14 savecurrents
.control
  save all
  op
  remzerovec
  write test_ac.raw
  set appendwrite
  ac dec 10 1 1e12
  remzerovec
  write test_ac.raw
  tran 0.1n 100n
  write test_ac.raw
.endc




**** end user architecture code
**.ends
.end
